US07399775B2
5-Chloro-2-[(2,5-difluorophenyl-4-pyridylmethyl)sulfonyl]pyridine
To a methanol (6 ml) solution of 5-chloro-2-[(2,5-difluorophenyl-4-pyridylmethyl)thio]pyridine (239 mg, 0.68 mmol) was added a water (12 ml) solution of Oxone (potassium peroxymonosulfate compound, 2 KHSO5.KHSO4.K2SO4) (631 mg, 1.03 mmol) at 0° C. After stirring at room temperature for 3 days, to the reaction mixture was added dichloromethane and the mixture was washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by preparative high performance liquid chromatography (using a mixed solvent of water/acetonitrile/formic acid). The resulting solid was washed with hexane/diisopropyl ether and then, collected by filtration, whereby the title compound (67 mg, 0.18 mmol, 26%) was obtained as a white powder.

reactant | methanol | 6 ml | CO | CH4O
reactant | 5-chloro-2-[(2,5-difluorophenyl-4-pyridylmethyl)thio]pyridine | 0.68 mmol, 239 mg | ClC=1C=CC(=NC1)SC(C1=CC=NC=C1)C1=C(C=CC(=C1)F)F | C17H11ClF2N2S
reactant | water | 12 ml | O | H2O
reactant | Oxone | 1.03 mmol, 631 mg | OOS(=O)[O-].[K+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Chloro-2-[(2,5-difluorophenyl-4-pyridylmethyl)sulfonyl]pyridine | 0.18 mmol, 67 mg, 26% | ClC=1C=CC(=NC1)S(=O)(=O)C(C1=CC=NC=C1)C1=C(C=CC(=C1)F)F | C17H11ClF2N2O2S
